US04816454
6-(4-(5-Hydroxy-3-methyl-1-phenyl-pyrazolyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone
4.5 g (0.016 mole) of 4-(4-(5-hydroxy-3-methyl-1-phenylpyrazolyl)-4-oxo-3-methyl-butyric acid and 1.5 ml (0.031 mole) of hydrazine hydrate are heated under reflux in 30 ml of ethanol for 1 hour. After the mixture has been concentrated, the residue is boiled up with isopropanol, the mixture is filtered and the product which has crystallised out is separated off.

reactant | 4-(5-hydroxy-3-methyl-1-phenylpyrazolyl)-4-oxo-3-methyl-butyric acid | OC1=C(C(=NN1C1=CC=CC=C1)C)C(C(CC(=O)O)C)=O | C15H16N2O4
reactant | hydrazine hydrate | 0.031 mole, 1.5 ml | O.NN
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | 4-(5-Hydroxy-3-methyl-1-phenyl-pyrazolyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | OC1=C(C(=NN1C1=CC=CC=C1)C)C1C(NN=CC1C)=O | C15H16N4O2
